US07868012B2
A solution of 2-(4-bromophenyl)-malonic acid dimethyl ester (11.73 g) in methanol (100 mL) is added at 0° C. to a solution of sodium (2.83 g) in methanol (100 mL). The mixture is stirred for 18 h at rt before formamidine hydrochloride (4.10 g) is added. The suspension is stirred at rt for 4 h. The solvent is removed and the residue is suspended in 10% aq. citric acid (100 mL) and stirred for 10 min. The white precipitate is collected, washed with 10% aq. citric acid, water, evaporated three times from CyHex and dried under high vacuum at 40° C. to give 5-(4-bromophenyl)-pyrimidine-4,6-diol (9.90 g) as a pale beige powder. LC-MS: tR=0.61 min, [M+H]+=267.07; 1H-NMR(D6-DMSO): 7.43-7.48 (m, 2H), 7.50-7.55 (m, 2H), 8.13 (s, 1H), 12.1 (s br, 2H).

reactant | 2-(4-bromophenyl)-malonic acid dimethyl ester | 11.73 g | COC(C(C(=O)OC)C1=CC=C(C=C1)Br)=O | C11H11BrO4
reactant | sodium | 2.83 g | [Na] | Na
reactant | formamidine hydrochloride | 4.10 g | Cl.C(=N)N
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
product | 5-(4-bromophenyl)-pyrimidine-4,6-diol | 9.90 g | BrC1=CC=C(C=C1)C=1C(=NC=NC1O)O | C10H7BrN2O2
